US04975438
As described in Example 99, (E,E)-5-cyclopropyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid methyl ester (6.8 g) was saponified in a refluxing mixture of methanol (30 mL) and 2N NaOH (30 mL). After 2.5 hours the cooled reaction was worked up in the usual manner, and the crude acid was crystallized from 2-propanol-hexane to give 5.6 g of (E,E)-5-cyclopropyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid, mp 158°-160° C.

reactant | (E,E)-5-cyclopropyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid methyl ester | 6.8 g | COC(\C=C\C=C(\C1=CC=C(C=C1)OC)/C1CC1)=O | C16H18O3
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E,E)-5-cyclopropyl-5-(4-methoxyphenyl)-2,4-pentadienoic acid | 5.6 g | C1(CC1)\C(=C/C=C/C(=O)O)\C1=CC=C(C=C1)OC | C15H16O3
